US08048887B2
Ethyl 2-(4-fluorophenyl)-6-nitro-5-(trifluoromethylsulfonyloxy)benzofuran-3-carboxylate
Triethylamine (121 μL, 0.869 mmol) was added to a stirring solution of 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide (155 mg, 0.434 mmol) and ethyl 2-(4-fluorophenyl)-5-hydroxy-6-nitrobenzofuran-3-carboxylate (100 mg, 0.290 mmol) in DCM (3 mL). It was allowed to stir overnight. The mixture concentrated and was purified on silica gel (BIOTAGE®, EtOAc/hexanes gradient, fraction collection at λ=254 nm) to give the titled compound (140 mg, 100%). 1H NMR (300 MHz, DMSO-d6) δ ppm 8.91 (1H, s), 8.10-8.19 (3H, m), 7.48 (2H, t, J=8.97 Hz), 4.37 (2H, q, J=7.07 Hz), 1.34 (3H, t, J=6.95 Hz). LC-MS retention time: 1.91 min; m/z (MH+): no ion detected. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a MICROMASS® Platform for LC in electrospray mode.

reactant | Triethylamine | 0.869 mmol, 121 μL | C(C)N(CC)CC | C6H15N
reactant | 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide | 0.434 mmol, 155 mg | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
reactant | ethyl 2-(4-fluorophenyl)-5-hydroxy-6-nitrobenzofuran-3-carboxylate | 0.290 mmol, 100 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)OCC)C=C(C(=C2)[N+](=O)[O-])O | C17H12FNO6
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 2-(4-fluorophenyl)-6-nitro-5-(trifluoromethylsulfonyloxy)benzofuran-3-carboxylate | 140 mg, 100% | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)OCC)C=C(C(=C2)[N+](=O)[O-])OS(=O)(=O)C(F)(F)F | C18H11F4NO8S
